US05629020
(L)-Arginine (103.2 g., 0.6 mole) was dissolved in 600 mL of 2N sodium hydroxide. Cyclohexanoyl chloride (87 mL, 0.6 mole) was added dropwise to the mixture. The reaction mixture was maintained at 50° C. for 2 hours. The mixture was then cooled to room temperature and acidified to pH 2.3 with aqueous (4:1) hydrochloric acid. The precipitate which formed was separated by decantation. The solids were dissolved in 2N sodium hydroxide and dried by lyophilization to furnish 64.1 g of crude N-cyclohexanoyl-(L)-arginine. The product was purified by column chromatography on silica gel/using butanol/acetic acid/water as the eluent system. The products isolated were N-cyclohexanoyl-(L)-arginine and N(α)-N(y)-dicyclohexanoyl-(L)-arginine.

reactant | (L)-Arginine | 0.6 mole, 103.2 g | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
reactant | Cyclohexanoyl chloride | 0.6 mole, 87 mL | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 2N, 600 mL | [OH-].[Na+]
product | N-cyclohexanoyl-(L)-arginine | 64.1 g | C1(CCCCC1)C(=O)N[C@@H](CCCNC(N)=N)C(=O)O | C13H24N4O3
